2167-10-31 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received total of 4 units pRBCs overnight.
   Allergies:
   Enalapril
   Cough;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-30**] 09:08 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt feeling weak, dizzy. No abdominal pain. No
   hematemsis or BRBPR.
   Flowsheet Data as of  [**2167-10-31**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 106 (87 - 108) bpm
   BP: 116/70(77) {95/29(45) - 154/70(89)} mmHg
   RR: 21 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
           Total In:
                                                                    300 mL
                                                                    638 mL
   PO:
           TF:
   IVF:
                                                                     10 mL
                                                                    250 mL
   Blood products:
                                                                    290 mL
                                                                    388 mL
   Total out:
                                                                    450 mL
                                                                      0 mL
   Urine:
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                    638 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   GEN: Well Appearing, Mild distress, cooperative, alert
   HEENT: nc/at, perrla, EOMI, anicteric, MMM, no oropharyngeal
   lesions/exudates
   Neck:  no LAD, supple
   Resp: CTAB
   CARD: 5/6 systolic and dialstolic flow, + thrill, loudest in LUSB.
   ABC:+bs, soft, NT, ND
   EXTR: no c/c/e 2+pulses, L.ac fistula with bruit.
   Neuro:aa0x3, CN2-12 intact, non-focal.
   Labs / Radiology
   171 K/uL
   6.9 g/dL
   94 mg/dL
   6.2 mg/dL
   24 mEq/L
   5.0 mEq/L
   89 mg/dL
   112 mEq/L
   145 mEq/L
   20.1 %
   9.6 K/uL
        [image002.jpg] ALT 7 AST 10 AP 46 Tb 0.8 LDH 129 Lactate 4.6
                            [**2167-10-30**]  09:57 PM
                            [**2167-10-31**]  03:55 AM
   WBC
   9.6
   Hct
   22.9
   20.1
   Plt
   171
   Cr
   5.9
   6.2
   Glucose
   66
   94
   Other labs: PT / PTT / INR:14.2/31.0/1.2, ALT / AST:[**6-18**], Alk Phos / T
   Bili:46/0.8, Differential-Neuts:71.4 %, Lymph:21.3 %, Mono:5.0 %,
   Eos:2.0 %, Albumin:2.1 g/dL, LDH:129 IU/L, Ca++:8.1 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   76 yo female with hx of ischemic colitis and lower GIB, ESRD on HD, who
   presenting with Lightheadedness, HCT drop, melena.
   .
   #HCT drop: Etiology Small Bowel bleed vs Right sided diverticular
   bleed. Pt now s/p 5 pRBCs. With continued Melena overnight. No BRBPR,
   no hematemesis.
   - d/w GI question scope vs tagged RBC scan
   - Cont q6h HCT
   -2 large bore PIV's.
   - active T+C
   - IV PPI 2
   .
   # Hypotension: Pt feeling dizzy this AM. Was orthostatic on admission.
   + Melena.
   - Will give back fluid 250-500cc with dialysis today.
   .
   # Hyperlactatemia
 Etiology hypoperfusion vs mesenteric ischemis.
   Normal WBC, no abdominal pain. Less likely sepsis
   - Trend Lactate
   - Will consider infectious w/u only if pt presents herself
   - IVF/blood PRN
   .
   # ESRD: Pt on dialysis M/W/F.
   - HD today
   -sevalemer, nephrocaps.
   .
   # Chronic systolic CHF/EF 20-30%: stable
   - Continue lovastatin/Toprol.
   .
   # DM:
   -Continue home regimen with half dose while NPO 26units NPH, HISS. DM
   diet. FS QID.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-10-30**] 03:15 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPi IV BID
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2167-11-01 06:57:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
 ENDOSCOPY - At [**2167-10-31**] 04:55 PM
   pt underwent endoscopy at bedside 1655-1720. Received total fentanyl
   150mcg, versed 4mg IV, NS 150ml. - see orders and procedure record in
   chart.
   -GI performed EGD with exploration to Ligament of Treitz without
   finding source of bleed. Thus, likely in small bowel or diverticulum
   -If bleeding continues, per GI, would recommend Tagged RBC study by
   nuclear medicine
   -Following Q 6hr HCT: 23-28-27-25. For this, gave 2 units at 9p and 2
   units PRBCs earlier in the day.
   -Lactate this afternoon 1.5
   -CXR without significant change.
   History obtained from Patient
   Allergies:
   History obtained from PatientEnalapril
   Cough;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-31**] 07:11 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Flowsheet Data as of  [**2167-11-1**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 96 (89 - 119) bpm
   BP: 132/54(71) {90/32(51) - 146/97(107)} mmHg
   RR: 16 (10 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
                  Total In:
                                                                  1,737 mL
                                                                    257 mL
   PO:
                  TF:
   IVF:
                                                                    409 mL
   Blood products:
                                                                  1,328 mL
                                                                    257 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,737 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   133 K/uL
   10.6 g/dL
   75 mg/dL
   4.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   46 mg/dL
   108 mEq/L
   146 mEq/L
   28.8 %
   11.5 K/uL
        [image002.jpg]
                            [**2167-10-30**]  09:57 PM
                            [**2167-10-31**]  03:55 AM
                            [**2167-10-31**]  09:00 AM
                            [**2167-10-31**]  12:41 PM
                            [**2167-10-31**]  02:36 PM
                            [**2167-10-31**]  08:33 PM
                            [**2167-11-1**]  03:15 AM
   WBC
   9.6
   11.5
   Hct
   22.9
   20.1
   23.5
   28.7
   27.1
   25.2
   28.8
   Plt
   171
   133
   Cr
   5.9
   6.2
   4.3
   Glucose
   66
   94
   75
   Other labs: PT / PTT / INR:12.8/30.8/1.1, ALT / AST:[**6-18**], Alk Phos / T
   Bili:46/0.8, Differential-Neuts:71.4 %, Lymph:21.3 %, Mono:5.0 %,
   Eos:2.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:129 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 .H/O HYPERTENSION, BENIGN
   76 yo female with hx of ischemic colitis and lower GIB, ESRD on HD, who
   presenting with Lightheadedness, HCT drop, melena.
   .
   #HCT drop: Etiology Small Bowel bleed vs diverticular bleed based on
   EGD results. Pt now s/p 10u pRBCs. No BRBPR, hematemasis, v sm amt
   melena overnight.
   -tagged RBC scan ordered but ? efficacy of this at this time. Will d/w
   GI benefits of trying to do capsule endoscopy as inpt vs outpt.
   - Cont q6h HCT
   -2 large bore PIV's.
   - active T+C
   - IV PPI [**Hospital1 **]
   .
   # Hypotension: Pt no longer feeling orthostatic. Was orthostatic on
   admission. + Melena.
   - no dialysis planned until Tues. Will follow closely and consider
   fluid bolus or transfusing prn
   .
   # Hyperlactatemia
 Etiology hypoperfusion vs mesenteric ischemis.
   Normal WBC, no abdominal pain. Less likely sepsis. As of yesterday
   afternoon, trend down to 1.5
   - Will consider infectious w/u only if symptoms suggest this etiology
   - IVF/blood PRN
   .
   # ESRD:  Got HD Saturday.
   - Renal following daily, appreciate recs
   -sevalemer, nephrocaps.
   .
   # Chronic systolic CHF/EF 20-30%: stable
   - Continue lovastatin. Holding toprol for now.
   .
   # DM:
   -Continue home regimen with half dose while NPO: 26units NPH, HISS. DM
   diet once no longer NPO. FS QID.
   ICU Care
   Nutrition: NPO for now per GI
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2167-10-30**] 03:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now

2167-11-02 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient likely not bleeding briskly enough for tagged red cell scan
   - Per GI, patient should get capsule endoscopy on Tuesday, bowel prep
   on Monday.
   - Also, nutrition is a concern as patient has had 2 small meals in last
   2 weeks.  Ordered boost for this AM, but may consider TPN if patient
   will be NPO for extended period of time.
   Allergies:
   Enalapril
   Cough;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-11-1**] 08:14 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-2**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 88 (87 - 103) bpm
   BP: 143/58(77) {130/49(70) - 166/94(105)} mmHg
   RR: 12 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                    327 mL
                                                                     49 mL
   PO:
             TF:
   IVF:
                                                                     70 mL
                                                                     49 mL
   Blood products:
                                                                    257 mL
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -73 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   161 K/uL
   9.8 g/dL
   62 mg/dL
   5.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   59 mg/dL
   109 mEq/L
   144 mEq/L
   27.6 %
   8.7 K/uL
        [image002.jpg]
                            [**2167-10-31**]  03:55 AM
                            [**2167-10-31**]  09:00 AM
                            [**2167-10-31**]  12:41 PM
                            [**2167-10-31**]  02:36 PM
                            [**2167-10-31**]  08:33 PM
                            [**2167-11-1**]  03:15 AM
                            [**2167-11-1**]  08:52 AM
                            [**2167-11-1**]  02:18 PM
                            [**2167-11-1**]  08:10 PM
                            [**2167-11-2**]  03:58 AM
   WBC
   9.6
   11.5
   8.7
   Hct
   20.1
   23.5
   28.7
   27.1
   25.2
   28.8
   30.7
   32.0
   31.0
   27.6
   Plt
   171
   133
   161
   Cr
   6.2
   4.3
   5.5
   Glucose
   94
   75
   62
   Other labs: PT / PTT / INR:12.6/29.7/1.1, ALT / AST:[**6-18**], Alk Phos / T
   Bili:46/0.8, Differential-Neuts:71.4 %, Lymph:21.3 %, Mono:5.0 %,
   Eos:2.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:129 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   76 yo female with hx of ischemic colitis and lower GIB, ESRD on HD, who
   presenting with Lightheadedness, HCT drop, melena.
   .
   #HCT drop: Etiology Small Bowel bleed vs diverticular bleed based on
   EGD results. Pt now s/p 10u pRBCs. No BRBPR, hematemasis, v sm amt
   melena overnight.
   -tagged RBC scan ordered but ? efficacy of this at this time. Will d/w
   GI benefits of trying to do capsule endoscopy as inpt vs outpt.
   - Cont q6h HCT
   -2 large bore PIV's.
   - active T+C
   - IV PPI [**Hospital1 **]
   .
   # Hypotension: Pt no longer feeling orthostatic. Was orthostatic on
   admission. + Melena.
   - no dialysis planned until Tues. Will follow closely and consider
   fluid bolus or transfusing prn
   .
   # Hyperlactatemia
 Etiology hypoperfusion vs mesenteric ischemis.
   Normal WBC, no abdominal pain. Less likely sepsis. As of yesterday
   afternoon, trend down to 1.5
   - Will consider infectious w/u only if symptoms suggest this etiology
   - IVF/blood PRN
   .
   # ESRD:  Got HD Saturday.
   - Renal following daily, appreciate recs
   -sevalemer, nephrocaps.
   .
   # Chronic systolic CHF/EF 20-30%: stable
   - Continue lovastatin. Holding toprol for now.
   .
   # DM:
   -Continue home regimen with half dose while NPO: 26units NPH, HISS. DM
   diet once no longer NPO. FS QID.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-10-30**] 03:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now

2167-11-02 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Recurrent lower GI bleed, unclear exact location.  Awaiting capsule
   study.  Patient has no new complaints and denies and rectal bleeding
   this morning.
   24 Hour Events:
                   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Enalapril
   Cough;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-11-1**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-2**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 96 (87 - 103) bpm
   BP: 175/74(97) {130/49(70) - 175/94(105)} mmHg
   RR: 19 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 81.3 kg
   Height: 59 Inch
             Total In:
                                                                    327 mL
                                                                    149 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                     70 mL
                                                                     49 mL
   Blood products:
                                                                    257 mL
   Total out:
                                                                    400 mL
                                                                    300 mL
   Urine:
                                                                    400 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -73 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: Awake, alert NAD
   Chest: CTA
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: warm, no edema
   Labs / Radiology
   9.8 g/dL
   161 K/uL
   62 mg/dL
   5.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   59 mg/dL
   109 mEq/L
   144 mEq/L
   27.6 %
   8.7 K/uL
        [image002.jpg]
                            [**2167-10-31**]  03:55 AM
                            [**2167-10-31**]  09:00 AM
                            [**2167-10-31**]  12:41 PM
                            [**2167-10-31**]  02:36 PM
                            [**2167-10-31**]  08:33 PM
                            [**2167-11-1**]  03:15 AM
                            [**2167-11-1**]  08:52 AM
                            [**2167-11-1**]  02:18 PM
                            [**2167-11-1**]  08:10 PM
                            [**2167-11-2**]  03:58 AM
   WBC
   9.6
   11.5
   8.7
   Hct
   20.1
   23.5
   28.7
   27.1
   25.2
   28.8
   30.7
   32.0
   31.0
   27.6
   Plt
   171
   133
   161
   Cr
   6.2
   4.3
   5.5
   Glucose
   94
   75
   62
   Other labs: PT / PTT / INR:12.6/29.7/1.1, ALT / AST:[**6-18**], Alk Phos / T
   Bili:46/0.8, Differential-Neuts:71.4 %, Lymph:21.3 %, Mono:5.0 %,
   Eos:2.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:129 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 .H/O HYPERTENSION, BENIGN
   1) GI bleed
   - unclear where there source is.  Will have capsule study in the
   morning.
   - continue to follow hematocrits -
   - 2 Large-bore access
   2) ESRD
   3)  Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-10-30**] 03:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30

2167-11-03 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Underwent HD
   - Hct stable over course of the day without additional transfusions
   - Pt prepped for Capsule study overnight
   - Hct drop this AM from 31 to 26, pt hemodynamically stable
   Allergies:
   Enalapril
   Cough;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-11-2**] 08:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Diarrhea overnight secondary to bowel prep. No
   fevers, chills, HA, CP, SOB, N,V. No LH or visual changes.
   Flowsheet Data as of  [**2167-11-3**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 90 (87 - 109) bpm
   BP: 119/46(65) {117/42(62) - 175/89(106)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 81.3 kg
   Height: 59 Inch
                  Total In:
                                                                  1,999 mL
                                                                    250 mL
   PO:
                                                                  1,950 mL
                                                                    250 mL
   TF:
   IVF:
                                                                     49 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    600 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -301 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, AOx3
   Eyes / Conjunctiva: PERRL, Sclera without significant pallor
   Cardiovascular:  Pan Systolic-Diastolic murmur, palpable thrill in L
   anterior, superior chest.
   Respiratory / Chest:  CTAB
   Abdominal: Soft, NT, BS+ NT Distended
   Extremities: No C/C/E
   Neurologic: A0X3, without Asterxis
   Labs / Radiology
   179 K/uL
   9.7 g/dL
   105 mg/dL
   4.1 mg/dL
   31 mEq/L
   3.3 mEq/L
   30 mg/dL
   105 mEq/L
   145 mEq/L
   26.7 %
   8.5 K/uL
        [image002.jpg]
                            [**2167-10-31**]  12:41 PM
                            [**2167-10-31**]  02:36 PM
                            [**2167-10-31**]  08:33 PM
                            [**2167-11-1**]  03:15 AM
                            [**2167-11-1**]  08:52 AM
                            [**2167-11-1**]  02:18 PM
                            [**2167-11-1**]  08:10 PM
                            [**2167-11-2**]  03:58 AM
                            [**2167-11-2**]  04:46 PM
                            [**2167-11-3**]  02:16 AM
   WBC
   11.5
   8.7
   8.5
   Hct
   28.7
   27.1
   25.2
   28.8
   30.7
   32.0
   31.0
   27.6
   31.7
   26.7
   Plt
   133
   161
   179
   Cr
   4.3
   5.5
   4.1
   Glucose
   75
   62
   105
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:[**6-18**], Alk Phos / T
   Bili:46/0.8, Differential-Neuts:71.4 %, Lymph:21.3 %, Mono:5.0 %,
   Eos:2.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:129 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   76 yo female with hx of ischemic colitis and lower GIB, ESRD on HD, who
   presenting with Lightheadedness, HCT drop, melena.
   .
   # GI Bleed: Etiology small bowel vs right sided diverticulosis. Hct  up
   and down overnight without signs or symptoms of bleeding.  No
   transfusions given.
   - Capsule Study today
   -  Space out HCTs to q8
   - 2 large bore PIV's.
   - active T+C
   - IV PPI [**Hospital1 **]
   - advance diet per GI recs
   .
   # ESRD:  HD M,W,F. Due tomorrow
   - Renal following daily, appreciate recs
   - Cont sevalemer, nephrocaps.
   .
   # Chronic systolic CHF/EF 20-30%: stable
   - Continue lovastatin. Holding toprol for now.
   .
   # DM:
   - Continue home regimen with half dose while NPO: 26units NPH, HISS. DM
   diet once no longer NPO. FS QID.
   ICU Care
   Nutrition: Currently NPO, will advance to clears in 2 hrs, regular in 4
   hrs
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-11-2**] 12:40 PM
   18 Gauge - [**2167-11-2**] 07:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**] likley call out to floor this afternoon if
   hemodynamically stable.

2167-11-03 09:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Overnight, no new problems.  Some rectal blood but hematocrit has
   remained stable and last value actually increased slightly.  No new
   complaints
   24 Hour Events:
   Started capsule study
   Allergies:
   Enalapril
   Cough;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-11-3**] 07:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-3**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 103 (87 - 109) bpm
   BP: 142/62(82) {117/42(62) - 158/89(106)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 81.3 kg
   Height: 59 Inch
             Total In:
                                                                  1,999 mL
                                                                    260 mL
   PO:
                                                                  1,950 mL
                                                                    250 mL
   TF:
   IVF:
                                                                     49 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    600 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -301 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: warm
   Skin:  warm, no edema
   Neurologic: no focal neuro findings
   Labs / Radiology
   9.7 g/dL
   179 K/uL
   105 mg/dL
   4.1 mg/dL
   31 mEq/L
   3.3 mEq/L
   30 mg/dL
   105 mEq/L
   145 mEq/L
   27.6 %
   8.5 K/uL
        [image002.jpg]
                            [**2167-10-31**]  02:36 PM
                            [**2167-10-31**]  08:33 PM
                            [**2167-11-1**]  03:15 AM
                            [**2167-11-1**]  08:52 AM
                            [**2167-11-1**]  02:18 PM
                            [**2167-11-1**]  08:10 PM
                            [**2167-11-2**]  03:58 AM
                            [**2167-11-2**]  04:46 PM
                            [**2167-11-3**]  02:16 AM
                            [**2167-11-3**]  08:30 AM
   WBC
   11.5
   8.7
   8.5
   Hct
   27.1
   25.2
   28.8
   30.7
   32.0
   31.0
   27.6
   31.7
   26.7
   27.6
   Plt
   133
   161
   179
   Cr
   4.3
   5.5
   4.1
   Glucose
   75
   62
   105
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:[**6-18**], Alk Phos / T
   Bili:46/0.8, Differential-Neuts:71.4 %, Lymph:21.3 %, Mono:5.0 %,
   Eos:2.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:129 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 .H/O HYPERTENSION, BENIGN
   1) GI Bleed
   - plan for capsule study today
   - hematocrit remains stable/increasing without need for blood
   transfusion
   - 2 large-bore IVs
   2) ESRD: had HD yesterday and plan for tomorrow again assuming
   stability
   3)Full Code
   4) Disposition: Given stable hct, can go to floor
 will discuss with
   GI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-11-2**] 12:40 PM
   18 Gauge - [**2167-11-2**] 07:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : to floor
   Total time spent: 35